US09290517B2
5-([1,1′-biphenyl]-4-yl)-6-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridine-2-thiol
Sodium sulfide (65.6 mg, 0.840 mmol) was added to a stirred mixture of 5-([1,1′-biphenyl]-4-yl)-6-chloro-2-(methylsulfonyl)-1-((2-(trimethylsilyl)ethoxy)-methyl)-1H-imidazo[4,5-b]pyridine (144 mg, 0.280 mmol) in DMF (2 ml) and the mixture was stirred at room temperature for 3 h. Water (30 mL) was added and the mixture was extracted with ethyl acetate (3×30 mL). The combined organic fractions were washed with brine (saturated, 30 mL), dried (Na2SO4), filtered and the solvent was evaporated under reduced pressure. The resulting residue was purified by column chromatography on silica gel Biotage™ 25S, eluting with 0-30% EtOAc/hexane to give title compound. LC-MS: calculated for C24H26ClN3OSSi 467.13 observed m/e: 468.12 (M+H)+ (Rt 1.38/2 min).

reactant | Sodium sulfide | 0.840 mmol, 65.6 mg | [S-2].[Na+].[Na+]
reactant | 5-([1,1′-biphenyl]-4-yl)-6-chloro-2-(methylsulfonyl)-1-((2-(trimethylsilyl)ethoxy)-methyl)-1H-imidazo[4,5-b]pyridine | 0.280 mmol, 144 mg | C1(=CC=C(C=C1)C1=C(C=C2C(=N1)N=C(N2COCC[Si](C)(C)C)S(=O)(=O)C)Cl)C2=CC=CC=C2 | C25H28ClN3O3SSi
reactant | Water | 30 mL | O | H2O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 5-([1,1′-biphenyl]-4-yl)-6-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridine-2-thiol | C1(=CC=C(C=C1)C1=C(C=C2C(=N1)N=C(N2COCC[Si](C)(C)C)S)Cl)C2=CC=CC=C2 | C24H26ClN3OSSi
